US07820673B2
50a) tert-butyl 2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperidinyl)-2-oxo-1-phenylethylcarbamate
Boc-phenylglycine (0.25 g) was dissolved in acetonitrile (10 ml). HOBt (0.23 g), WSC (0.29 g), triethylamine (0.2 ml) and 5-methyl-2-(4-piperidinyl)-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one dihydrochloride (0.29 g) were added thereto, and mixed at room temperature for 15 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound as a green oil (0.43 g, 95%).

reactant | Boc-phenylglycine | 0.25 g | C(=O)(OC(C)(C)C)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | HOBt | 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.29 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-methyl-2-(4-piperidinyl)-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one dihydrochloride | 0.29 g | Cl.Cl.CC1=NC=C2N1C(N(C2)C2CCNCC2)=O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl 2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperidinyl)-2-oxo-1-phenylethylcarbamate | 0.43 g, 95% | CC1=NC=C2N1C(N(C2)C2CCN(CC2)C(C(C2=CC=CC=C2)NC(OC(C)(C)C)=O)=O)=O | C24H31N5O4
